US06846303B2
3-Mercaptopropylmethyldimethoxysilane;
Mercaptopropyltrimethoxysilane; N-methylaminopropyltrimethoxysilane; Methyltriacetoxysilane; Methyltriethoxysilane; Methyl trimethoxysilane;

reactant | Mercaptopropyltrimethoxysilane | SCCC[Si](OC)(OC)OC | C6H16O3SSi
reactant | N-methylaminopropyltrimethoxysilane | CNCCC[Si](OC)(OC)OC | C7H19NO3Si
reactant | Methyltriacetoxysilane | C[Si](OC(C)=O)(OC(C)=O)OC(C)=O | C7H12O6Si
reactant | Methyltriethoxysilane | C[Si](OCC)(OCC)OCC | C7H18O3Si
reactant | Methyl trimethoxysilane | C[Si](OC)(OC)OC | C4H12O3Si
product | 3-Mercaptopropylmethyldimethoxysilane | SCCC[Si](OC)(OC)C | C6H16O2SSi
